US07102008B2
sec-Butyl lithium (5.85 mL, 7.6 mmol) was added to a solution of 1-bromo-4-benzyloxy-benzene (2.0 g, 7.6 mmol) in THF (10 mL) cooled to −78° C. under nitrogen. The reaction was stirred for 1 h and diethyl dimethylmalonate (4.29 g, 22.8 mmol) was added rapidly. This was stirred for an additional 0.5 h and then allowed to warm to room temperature. The reaction was partitioned between ethyl acetate and 1 N HCl. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated to give an oil. The product was purified by flash column chromatography (FCC) on silica gel eluting hexane:ethyl acetate (90: 10, v:v) to give 3-(4-benzyloxy-phenyl)-2,2-dimethyl-3-oxo-propionic acid ethyl ester (1.25 g, 50%) as an oil. MS found: (M+H)+=327.

reactant | sec-Butyl lithium | 7.6 mmol, 5.85 mL | C(C)(CC)[Li]
reactant | 1-bromo-4-benzyloxy-benzene | 7.6 mmol, 2.0 g | BrC1=CC=C(C=C1)OCC1=CC=CC=C1 | C13H11BrO
reactant | diethyl dimethylmalonate | 22.8 mmol, 4.29 g | CC(C(=O)OCC)(C(=O)OCC)C | C9H16O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(4-benzyloxy-phenyl)-2,2-dimethyl-3-oxo-propionic acid ethyl ester | 1.25 g, 50% | C(C)OC(C(C(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)C)=O | C20H22O4
